US09233979B2
6-Chloro-3-morpholino-1-trityl-1H-pyrazolo [4,3-c]pyridine-4-carbaldehyde (292.2 mg, 0.574 mmol) was dissolved in DCM (3 mL) and methanol (3 mL). Sodium borohydride (21.72 mg, 0.574 mmol) was then added and the reaction mixture was stirred at rt for 15 min. The reaction was quenched with water and extracted with DCM. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated in vacuo while loading onto silica gel. Purification by flash chromatography (5-40% EtOAc/Hexanes) gave (6-chloro-3-morpholino-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)methanol. MS ESI calc'd. For C30H28ClN4O2 [M+H]+ 511. found 511.

reactant | 6-Chloro-3-morpholino-1-trityl-1H-pyrazolo [4,3-c]pyridine-4-carbaldehyde | 0.574 mmol, 292.2 mg | ClC1=CC2=C(C(=N1)C=O)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)N2CCOCC2 | C30H25ClN4O2
reactant | Sodium borohydride | 0.574 mmol, 21.72 mg | [BH4-].[Na+]
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 3 mL | CO | CH4O
product | (6-chloro-3-morpholino-1-trityl-1H-pyrazolo[4,3-c]pyridin-4-yl)methanol | ClC1=CC2=C(C(=N1)CO)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)N2CCOCC2 | C30H27ClN4O2
